US04122183
(b) 2-(N-butyl-isobutyramido)-5-methyloxazole
2-isobutyramido-5-methyloxazole (2.10 g., 0.0124 mol), prepared as above, was dissolved in dry dimethylformamide (10 mls.) and cooled to below 5° C. To this was added sodium hydride (0.70 g., 0.0145 mol.) portionwise, keeping the temperature below 5° C. After the addition, the mixture was stirred for a further 30 minutes at 5° C and then allowed to warm to room temperature. The iodobutane (5.0 g., 0.0271 mol.) was added. The mixture was stirred overnight, the solvent was evaporated under reduced pressure and the residue was partitioned between water (50 mls.) and ether (50 mls.). The organic phase was then washed with 2N HCl (2 × 25 mls.), water (1 × 25 mls.), 10% aqueous sodium carbonate (3 × 25 mls.) and water (3 × 25 mls.). The organic phase was then dried over magnesium sulphate and evaporated under reduced pressure. The residue was distilled from a Kugelrohr, air bath temperature 100° C/0.1 mm. Yield = 1.74 g. (62%).

reactant | 2-isobutyramido-5-methyloxazole | 0.0124 mol, 2.10 g | C(C(C)C)(=O)NC=1OC(=CN1)C | C8H12N2O2
reactant | sodium hydride | 0.0145 mol, 0.70 g | [H-].[Na+]
reactant | iodobutane | 0.0271 mol, 5.0 g | ICCCC | C4H9I
solvent | dimethylformamide | 10 mls | CN(C=O)C | C3H7NO
product | 2-(N-butyl-isobutyramido)-5-methyloxazole | C(CCC)N(C(C(C)C)=O)C=1OC(=CN1)C | C12H20N2O2
